US07291635B2
The title A compound, 5-(5-diethoxymethyl-thiophen-2-ylmethyl)-2-(2,4-dimethoxy-benzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (3.91 g, 8.1 mmol) is dissolved in THF (100 mL) and 6N aqueous HCl (2.7 mL) is added. The mixture is stirred for 2 h and the solvent is evaporated. The residue is partitioned between EtOAc and saturated aqueous NaHCO3 solution. The organic layer is dried over anhydrous MgSO4 and concentrated to dryness. The residue is triturated from Et2O to afford 5-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-thiophene-2-carbaldehyde as a yellow solid.

reactant | 5-(5-diethoxymethyl-thiophen-2-ylmethyl)-2-(2,4-dimethoxy-benzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 8.1 mmol, 3.91 g | C(C)OC(C1=CC=C(S1)CN1CC(N(S1(=O)=O)CC1=C(C=C(C=C1)OC)OC)=O)OCC | C21H28N2O7S2
reactant | HCl | 6N, 2.7 mL | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-thiophene-2-carbaldehyde | COC1=C(CN2C(CN(S2(=O)=O)CC2=CC=C(S2)C=O)=O)C=CC(=C1)OC | C17H18N2O6S2
